US04925863
A solution of 4-(trifluoromethoxy)iodobenzene (8.64 g.) in anhydrous diethyl ether (60 ml.) was added dropwise at -65° C. to n-butyl-lithium (21 ml. of a 1.6M solution in hexane) over 20 minutes. After stirring for a further 20 minutes, a solution of acetaldehyde (1.6 g.) in diethyl ether (15 ml.) was added, keeping the temperature below -60° C. Stirring was continued for 1 hour, after which time the temperature was allowed to rise to -30° C. and a mixture of glacial acetic acid (15 ml) and diethyl ether (20 ml.) was added. On reaching room temperature, the solution was poured into water, the organic layer was separated, washed with water and then sodium bicarbonate solution, dried over sodium sulphate and filtered, and the solvents were evaporated to give a pale yellow oil which was purified by column chromatography on silica and using chloroform, then chloroform/ethyl acetate (7:3 v/v) as eluent. Evaporation of the appropriate fractions gave a colourless oil which was dissolved in methylene dichloride (60 ml.) and treated with pyridinium chlorochromate (7.35 g.). After stirring for 3 hours, the reaction mixture was diluted with diethyl ether (100 ml.), and the suspension was filtered through a "Florosil" (trade mark) silica pad. Evaporation of the solvent gave 4-trifluoromethoxyacetophenone as a pale yellow oil. N.m.r. in deuteriochloroform gave signals at 2.59 (3H, singlet) and 7.7 (4H, quartet).

reactant | 4-(trifluoromethoxy)iodobenzene | 8.64 g | FC(OC1=CC=C(C=C1)I)(F)F | C7H4F3IO
reactant | n-butyl-lithium | C(CCC)[Li]
reactant | acetaldehyde | 1.6 g | C(C)=O | C2H4O
reactant | pyridinium chlorochromate | 7.35 g | [Cr](=O)(=O)([O-])Cl.[NH+]1=CC=CC=C1
solvent | diethyl ether | 60 ml | C(C)OCC | C4H10O
solvent | hexane | CCCCCC | C6H14
solvent | diethyl ether | 15 ml | C(C)OCC | C4H10O
solvent | methylene dichloride | 60 ml | C(Cl)Cl | CH2Cl2
solvent | diethyl ether | 100 ml | C(C)OCC | C4H10O
solvent | diethyl ether | 20 ml | C(C)OCC | C4H10O
solvent | water | O | H2O
solvent | acetic acid | 15 ml | C(C)(=O)O | C2H4O2
product | 4-trifluoromethoxyacetophenone | CC(=O)C1=CC=C(C=C1)OC(F)(F)F | C9H7F3O2
